US03965113
In a similar manner, using phenol, p-cresol, o-chlorophenol, m-chlorophenol, o,p-dichlorophenol, m,p-dichlorophenol, m-trifluoromethylphenol, p-bromophenol, p-fluorophenol, m-fluorophenol, p-acetylphenol, p-cyanophenol, m-hydroxyphenol, and p-methoxyphenol in place of p-chlorophenol, the corresponding 1,2-diamino-4-phenoxy (or substituted phenoxy) benzenes and 2-carbomethoxyamino-5(6)-phenoxy (or substituted phenoxy) benzimidazole compounds are prepared. Using the 1,2-diamino compounds prepared above in this Example, and substituting 1,3-bis-ethoxycarbonyl-S-methyl isothiourea, 1,3-bis-propoxycarbonyl-S-methyl isothiourea, or 1,3-bis-butoxycarbonyl-S-methyl isothiourea for the 1,3-bis-methoxycarbonyl-S-methyl isothiourea, the corresponding 2-carbalkoxyamino-5(6)-phenoxy (or p-substituted phenoxy) benzimidazole compounds are prepared, where R is ethyl, propyl or butyl.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | p-cresol | C1=CC(=CC=C1O)C | C7H8O
reactant | o-chlorophenol | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | m-chlorophenol | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | m-trifluoromethylphenol | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | p-bromophenol | C1=CC(=CC=C1O)Br | C6H5BrO
reactant | p-fluorophenol | FC1=CC=C(C=C1)O | C6H5FO
reactant | m-fluorophenol | FC=1C=C(C=CC1)O | C6H5FO
reactant | p-acetylphenol | C(C)(=O)C1=CC=C(C=C1)O | C8H8O2
reactant | p-cyanophenol | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | p-methoxyphenol | COC1=CC=C(C=C1)O | C7H8O2
reactant | 1,3-bis-ethoxycarbonyl-S-methyl isothiourea | C(C)OC(=O)NC(SC)=NC(=O)OCC | C8H14N2O4S
reactant | 1,3-bis-propoxycarbonyl-S-methyl isothiourea | C(CC)OC(=O)NC(SC)=NC(=O)OCCC | C10H18N2O4S
reactant | 1,3-bis-butoxycarbonyl-S-methyl isothiourea | C(CCC)OC(=O)NC(SC)=NC(=O)OCCCC | C12H22N2O4S
reactant | 1,3-bis-methoxycarbonyl-S-methyl isothiourea | COC(=O)NC(SC)=NC(=O)OC | C6H10N2O4S
product | benzimidazole | N1=CNC2=C1C=CC=C2 | C7H6N2
